US08138197B2
Methyl 5-{[(trifluoromethyl)sulfonyl]oxy}biphenyl-3-carboxylate
With cooling with ice, pyridine (1.2 mL) and trifluoromethanesulfonic acid anhydride (1.2 mL) were added to a CHCl3 (40 mL) solution of methyl 5-hydroxybiphenyl-3-carboxylate, and stirred for 30 minutes with cooling with ice. Aqueous ammonium chloride was added to the reaction liquid, extracted with ethyl acetate, and the organic layer was washed with water, aqueous saturated sodium bicarbonate solution and saturated saline water. This was dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to obtain the title compound as a yellow oil. Not purified, this was used in the next step.

reactant | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 1.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 5-hydroxybiphenyl-3-carboxylate | OC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC | C14H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 5-{[(trifluoromethyl)sulfonyl]oxy}biphenyl-3-carboxylate | FC(S(=O)(=O)OC=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC)(F)F | C15H11F3O5S
